US08314087B2
A 10 mL, Biotage microwave vessel was charged with racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl (0.093 g, 0.23 mmol), palladium(II) acetate (0.048 g, 0.21 mmol), a stir bar, and 1 mL toluene. The flask was sealed and swept with Ar by piercing the septa with an Ar inlet and an 18-gauge needle. The solution was heated to 70° C. for 20 minutes. To the solution was added cesium carbonate (0.076 g, 0.23 mmol), 4-iodo-7-methoxyquinoline (0.067 g, 0.23 mmol), and 2-(4-benzyl-2-fluoropyridin-3-yl)ethanol (0.0493 g, 0.21 mmol). The reaction was heated for 24 h at 70° C. and cooled. The solution was treated with 1 mL water, and the stirred for 20 min. The two phases were loaded onto an unbuffered, 10 mL Varian Chem elute CE 1005 (PN 12198007) and extracted with 5×5 mL CH2Cl2. The combined extracts were concentrated in vacuo. The residue was loaded onto a 30×100 mm Waters Xterra Prep C18 OBD column (100 Å pore diameter, 5 μm particle size, spherical shape, PN 186001942; Gradient: 0→5 min@35 mL/min, 25% B; 5→20 min@35 mL/min, linear gradient to 55% B; 20→24.9@35 mL/min, isocratic at 55% B, 25→29.9 min@35 mL/min, step to 100% B; 30→40 min@35 mL/min, step to 25% B; 40 min end). A=10 mM NH3HCO3 in water (pH 9.6); B=ACN. A band that eluted from 20.9-21.6 minutes was isolated. The solvent was evaporated in vacuo to afford 4-(2-(4-benzyl-2-fluoropyridin-3-yl)ethoxy)-7-methoxyquinoline. 1H NMR (400 MHz, CDCl3) δ ppm 3.30 (t, J=6.70 Hz, 2 H) 3.94 (s, 3 H) 4.19 (s, 2 H) 4.22 (t, J=6.75 Hz, 2 H) 6.48 (d, J=5.38 Hz, 1 H) 6.99 (d, J=4.99 Hz, 1 H) 7.08-7.12 (m, 2 H) 7.14 (dd, J=9.15, 2.49 Hz, 1 H) 7.21-7.32 (m, 3 H) 7.39 (d, J=2.25 Hz, 1 H) 8.02 (d, J=9.19 Hz, 1 H) 8.05 (d, J=4.99 Hz, 1 H) 8.61 (d, J=5.48 Hz, 1 H). 13C NMR (101 MHz, CDCl3) δ ppm 25.39 (s, 1 C) 38.56 (d, J=3.47 Hz, 1 C) 55.52 (s, 1 C) 66.76 (s, 1 C) 99.27 (s, 1 C) 106.74 (s, 1 C) 115.76 (s, 1 C) 118.19 (d, J=30.34 Hz, 1 C) 118.66 (s, 1 C) 123.00 (s, 1 C) 123.49 (d, J=3.90 Hz, 1 C) 126.99 (s, 1 C) 128.69 (s, 2 C) 128.95 (s, 2 C) 137.96 (s, 1 C) 145.60 (s, 1 C) 145.77 (s, 1 C) 151.12 (d, J=6.50 Hz, 1 C) 153.72 (d, J=5.20 Hz, 1 C) 161.19 (s, 1 C) 161.52 (br. s., 1 C) 163.03 (d, J=237.12 Hz, 1 C). MS (ESI pos. ion) m/z (MH+): 389.1, calcd for C24H21FN2O2+H+=389.2.

reactant | racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl | 0.23 mmol, 0.093 g | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
reactant | cesium carbonate | 0.23 mmol, 0.076 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-iodo-7-methoxyquinoline | 0.23 mmol, 0.067 g | IC1=CC=NC2=CC(=CC=C12)OC | C10H8INO
reactant | 2-(4-benzyl-2-fluoropyridin-3-yl)ethanol | 0.21 mmol, 0.0493 g | C(C1=CC=CC=C1)C1=C(C(=NC=C1)F)CCO | C14H14FNO
catalyst | palladium(II) acetate | 0.21 mmol, 0.048 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1 mL | O | H2O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-(4-benzyl-2-fluoropyridin-3-yl)ethoxy)-7-methoxyquinoline | C(C1=CC=CC=C1)C1=C(C(=NC=C1)F)CCOC1=CC=NC2=CC(=CC=C12)OC | C24H21FN2O2
